US06429207B1
Using the method of Kepez (Monatahefte fur Chemie, 1989, 120, 127-130), a solution of 2-methyl-6-fluoroquinoxaline (225 mg 1.39 mmol) in ethyl acetate (30 mL) was treated with selenium dioxide (2.5 g) and the reaction mixture heated at reflux for 36 hours. The reaction was filtered hot and concentrated. Chromatography through a Biotage silica cartridge (8×4 cm i.d.) using a gradient of hexane to 10% ethyl acetate (in hexane) afforded 71 mg (29%) of 6-fluoroquinoxaline-2-carboxaldehyde.

reactant | 2-methyl-6-fluoroquinoxaline | 1.39 mmol, 225 mg | CC1=NC2=CC=C(C=C2N=C1)F | C9H7FN2
reactant | selenium dioxide | 2.5 g | [Se](=O)=O | O2Se
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-fluoroquinoxaline-2-carboxaldehyde | 71 mg, 29% | FC=1C=C2N=CC(=NC2=CC1)C=O | C9H5FN2O
